US08097628B2
(c) [4-(bromomethyl)-2-chlorophenyl]methyl acetate
(2-chloro-4-methylphenyl)methyl acetate (453 mg, 2.280 mmol) was dissolved in Chloroform (20 mL) and AIBN (18.72 mg, 0.114 mmol) and NBS (406 mg, 2.280 mmol) were added under Ar atmosphere. The reaction was left under reflux for 5 hours. HPLC showed a new pick which we thought it was the desired product and a bit of starting material and the reaction was stopped. The mixture was allowed to reach room temperature, succinimide was filtered, and volatiles removed under vacuum. Corresponding crude was purified by using flash master chromatography Si II MERCK, 20 g Hexane-acetate (0-30%).

reactant | (2-chloro-4-methylphenyl)methyl acetate | 2.280 mmol, 453 mg | C(C)(=O)OCC1=C(C=C(C=C1)C)Cl | C10H11ClO2
reactant | AIBN | 0.114 mmol, 18.72 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NBS | 2.280 mmol, 406 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | Chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | [4-(bromomethyl)-2-chlorophenyl]methyl acetate | C(C)(=O)OCC1=C(C=C(C=C1)CBr)Cl | C10H10BrClO2
